US05057513
A stirred suspension of sodium hydride (5.5 g, 60% dispersion in mineral oil) in dimethyl sulfoxide (400 ml) was heated at 60° C. for 1 hour under nitrogen atmosphere. (1S,6S)-1-Phenylmethyl-11-oxo-7-thia-10-azaspiro[5.6]-dodecane 7,7-dioxide (40.0 g) and 3-pyridylmethyl chloride (25 g) were added to the nearly clear solution and the mixture was allowed to stand at room temperature for 15 minutes. The mixture was diluted with ethyl acetate (2 l) and washed with saturated aqueous sodium bicarbonate (2 l) and brine (2 l). The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was triturated with ethyl acetate and recrystallized from ethanol to give (1S,6S)-1-phenylmethyl-10-(3-pyridylmethyl)-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide (14.0 g).

reactant | sodium hydride | 5.5 g | [H-].[Na+]
reactant | (1S,6S)-1-Phenylmethyl-11-oxo-7-thia-10-azaspiro[5.6]-dodecane 7,7-dioxide | 40.0 g | C1(=CC=CC=C1)C[C@@H]1CCCC[C@@]12S(CCNC(C2)=O)(=O)=O | C17H23NO3S
reactant | 3-pyridylmethyl chloride | 25 g | N1=CC(=CC=C1)CCl | C6H6ClN
solvent | dimethyl sulfoxide | 400 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
product | (1S,6S)-1-phenylmethyl-10-(3-pyridylmethyl)-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide | 14.0 g | C1(=CC=CC=C1)C[C@@H]1CCCC[C@@]12S(CCN(C(C2)=O)CC=2C=NC=CC2)(=O)=O | C23H28N2O3S
